US07579488B2
Preparation of 2-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-5-carboxylic acid
A solution of 2-{1-[4-(2-tert-butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-5-carboxylic acid methyl ester (1.51 g, 3.05 mmol) in methanol (5.0 mL) and THF (5.0 mL) and is treated with NaOH (2.0 M, 10 mL). The resulting mixture is stirred at RT for 2 h. The mixture is concentrated and neutralized with HCl (1 N) till pH˜3, and extracted with EtOAc (3×50 mL). The organic layer is dried over Na2SO4, concentrated to afford the title compound (1.43 g, 95%).

reactant | 2-{1-[4-(2-tert-butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-5-carboxylic acid methyl ester | 3.05 mmol, 1.51 g | COC(=O)C=1C=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC2(OCCO2)C(C)(C)C)C)C1 | C30H38O6
reactant | NaOH | 2.0 M, 10 mL | [OH-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 2-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-5-carboxylic acid | 1.43 g, 95% | C(C)(C)(C)C1(OCCO1)COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(C1)C=C(C=C2)C(=O)O)C | C29H36O6
